Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CCO[C:1](=[O:2])/[C:3]([F:4])=[C:5](/[CH3:6])[c:7]1[cH:8][c:9]2[c:10]([cH:11][c:12]1[O:13][CH3:14])[O:15][C:16]([CH3:17])([CH3:18])[CH:19]=[C:20]2[CH2:21][CH3:22]>>[CH2:1]([OH:2])/[C:3]([F:4])=[C:5](/[CH3:6])[c:7]1[cH:8][c:9]2[c:10]([cH:11][c:12]1[O:13][CH3:14])[O:15][C:16]([CH3:17])([CH3:18])[CH:19]=[C:20]2[CH2:21][CH3:22],CC[O:101][C:1](=[O:2])/[C:3]([F:4])=[C:5](/[CH3:6])[c:7]1[cH:8][c:9]2[c:10]([cH:11][c:12]1[O:13][CH3:14])[O:15][C:16]([CH3:17])([CH3:18])[CH:19]=[C:20]2[CH2:21][CH3:22].[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])/[C:3]([F:4])=[C:5](/[CH3:6])[c:7]1[cH:8][c:9]2[c:10]([cH:11][c:12]1[O:13][CH3:14])[O:15][C:16]([CH3:17])([CH3:18])[CH:19]=[C:20]2[CH2:21][CH3:22],ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[n:3][c:4]([CH2:5][CH:6]([CH2:7][C:8]([O:9][CH2:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[o:19][cH:20]1)=[O:21].[NH2:22][CH2:23][CH2:24][CH2:25][NH:26][c:27]1[cH:28][cH:29][cH:30][cH:31][n:32]1>>[C:1]([c:2]1[n:3][c:4]([CH2:5][CH:6]([CH2:7][C:8]([O:9][CH2:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[o:19][cH:20]1)(=[O:21])[NH:22][CH2:23][CH2:24][CH2:25][NH:26][c:27]1[cH:28][cH:29][cH:30][cH:31][n:32]1,[OH:101][C:1]([c:2]1[n:3][c:4]([CH2:5][CH:6]([CH2:7][C:8]([O:9][CH2:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[o:19][cH:20]1)=[O:21].[NH2:22][CH2:23][CH2:24][CH2:25][NH:26][c:27]1[cH:28][cH:29][cH:30][cH:31][n:32]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[n:3][c:4]([CH2:5][CH:6]([CH2:7][C:8]([O:9][CH2:10][CH3:11])=[O:12])[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[o:19][cH:20]1)(=[O:21])[NH:22][CH2:23][CH2:24][CH2:25][NH:26][c:27]1[cH:28][cH:29][cH:30][cH:31][n:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (22, 1), ([1, 21], 21), (303, 22.1), ([22.1, 22], 22), (21, [21, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]1[N:2]([CH2:3][CH2:4][O:5][C:6]([CH3:7])=[O:8])[CH2:9][CH2:10][N:11]1[CH3:12].[NH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[N:20]1[CH2:21][CH2:22][O:23][CH2:24][CH2:25]1>>[C:1]1(=[N:13][c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[N:20]2[CH2:21][CH2:22][O:23][CH2:24][CH2:25]2)[N:2]([CH2:3][CH2:4][O:5][C:6]([CH3:7])=[O:8])[CH2:9][CH2:10][N:11]1[CH3:12],[O:101]=[C:1]1[N:2]([CH2:3][CH2:4][O:5][C:6]([CH3:7])=[O:8])[CH2:9][CH2:10][N:11]1[CH3:12].[NH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[N:20]1[CH2:21][CH2:22][O:23][CH2:24][CH2:25]1.[H+:301]>>[C:1]1(=[N:13][c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[N:20]2[CH2:21][CH2:22][O:23][CH2:24][CH2:25]2)[N:2]([CH2:3][CH2:4][O:5][C:6]([CH3:7])=[O:8])[CH2:9][CH2:10][N:11]1[CH3:12],imine_formation,"[(13, 1), ([1, 101], 301), (101, 13.1), ([13.1, 13], 13), (13, [13, 1]), ([1, 101], 101), ([13.1, 13], 13)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:12][cH:11][cH:10][cH:9][cH:8]2)[n:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[n:20]1.[CH3:21][c:22]1[cH:23][cH:24][cH:25][c:26]([N:27]2[CH2:28][CH2:29][NH:30][CH2:31][CH:32]2[CH3:33])[cH:34]1>>[CH2:1]([CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[n:20]1)[N:30]1[CH2:29][CH2:28][N:27]([c:26]2[cH:25][cH:24][cH:23][c:22]([CH3:21])[cH:34]2)[CH:32]([CH3:33])[CH2:31]1,[O:101]=[CH:1][CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[n:20]1.[CH3:21][c:22]1[cH:23][cH:24][cH:25][c:26]([N:27]2[CH2:28][CH2:29][NH:30][CH2:31][CH:32]2[CH3:33])[cH:34]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][CH2:3][c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[n:20]1)[N:30]1[CH2:29][CH2:28][N:27]([c:26]2[cH:25][cH:24][cH:23][c:22]([CH3:21])[cH:34]2)[CH:32]([CH3:33])[CH2:31]1,reductive_amination,"[(30, 1), ([1, 101], 301), (101, 30.1), ([30.1, 30], 30), (30, [30, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 30], 30)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
